*************************************
*COPYRIGHT 1994, BY AMP INCORPORATED*
**ALL INTERNATIONAL RIGHTS RESERVED**
*************************************
*                       *   AMP Connector Catalog No.
*    STRIPLINE 100      *            65194
*                       *
*************************
* rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
***********
*SRC=ZPSLM;ZPSLM;Connectors;Imped. Cntrl.;Right Angle, Median Value
*SYM=ZPSLM
.SUBCKT ZPSLM 1  2   3
*            IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.008
L4 4 5 2.12NH
C5 5 3 0.82PF
L5 5 6 2.12NH
C6 6 3 0.82PF
L6 6 7 2.12NH
C7 7 3 0.82PF
L7 7 8 2.12NH
R8 8 2 0.008
.ENDS ZPSLM
***********
*SRC=ZPSLA;ZPSLA;Connectors;Imped. Cntrl.;Right Angle, Row A
*SYM=ZPSLM
.SUBCKT ZPSLA 1  2   3
*            IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.006
L4 4 5 1.70NH
C5 5 3 0.77PF
L5 5 6 1.70NH
C6 6 3 0.77PF
L6 6 7 1.70NH
C7 7 3 0.77PF
L7 7 8 1.70NH
R8 8 2 0.006
.ENDS ZPSLA
***********
*SRC=ZPSLB;ZPSLB;Connectors;Imped. Cntrl.;Right Angle, Row B
*SYM=ZPSLM
.SUBCKT ZPSLB 1  2   3
*            IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.007
L4 4 5 2.03NH
C5 5 3 0.80PF
L5 5 6 2.03NH
C6 6 3 0.80PF
L6 6 7 2.03NH
C7 7 3 0.80PF
L7 7 8 2.03NH
R8 8 2 0.007
.ENDS ZPSLB
***********
*SRC=ZPSLC;ZPSLC;Connectors;Imped. Cntrl.;Right Angle, Row C
*SYM=ZPSLM
.SUBCKT ZPSLC 1  2   3
*            IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.008
L4 4 5 2.33NH
C5 5 3 0.83PF
L5 5 6 2.33NH
C6 6 3 0.83PF
L6 6 7 2.33NH
C7 7 3 0.83PF
L7 7 8 2.33NH
R8 8 2 0.008
.ENDS ZPSLC
***********
*SRC=ZPSLD;ZPSLD;Connectors;Imped. Cntrl.;Right Angle, Row D
*SYM=ZPSLM
.SUBCKT ZPSLD 1  2   3
*            IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.009
L4 4 5 2.43NH
C5 5 3 0.87PF
L5 5 6 2.43NH
C6 6 3 0.87PF
L6 6 7 2.43NH
C7 7 3 0.87PF
L7 7 8 2.43NH
R8 8 2 0.009
.ENDS ZPSLD
***********
*
********** TRANSMISSION LINE MODELS **************
*
***********
*SRC=ZPSLML;ZPSLML;Connectors;Imped. Cntrl.;Right Angle, Median Value
*SYM=ZPSLM
.SUBCKT ZPSLML 1  2   3
*             IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.015
T4 4 3 2 3 Z0=59 TD=95PS
.ENDS ZPSLML
************
*SRC=ZPSLAL;ZPSLAL;Connectors;Imped. Cntrl.;Right Angle, Row A
*SYM=ZPSLM
.SUBCKT ZPSLAL 1  2   3
*             IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.012
T4 4 3 2 3 Z0=55 TD=80PS
.ENDS ZPSLAL
************
*SRC=ZPSLBL;ZPSLBL;Connectors;Imped. Cntrl.;Right Angle, Row B
*SYM=ZPSLM
.SUBCKT ZPSLBL 1  2   3
*             IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.014
T4 4 3 2 3 Z0=58 TD=90PS
.ENDS ZPSLBL
************
*SRC=ZPSLCL;ZPSLCL;Connectors;Imped. Cntrl.;Right Angle, Row C
*SYM=ZPSLM
.SUBCKT ZPSLCL 1  2   3
*             IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.016
T4 4 3 2 3 Z0=61 TD=100PS
.ENDS ZPSLCL
************
*SRC=ZPSLDL;ZPSLDL;Connectors;Imped. Cntrl.;Right Angle, Row D
*SYM=ZPSLM
.SUBCKT ZPSLDL 1  2   3
*             IN*OUT*REF
* AMP Stripline 100, 65194
R1 1 4 0.017
T4 4 3 2 3 Z0=61 TD=110PS
.ENDS ZPSLDL
************
*
****************************************************
*                      *   AMP Connector Catalog No.
*     MICROSTRIP RA    *            65194
*                      *
************************
* rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
********
*SRC=MSRAM;MSRAM;Connectors;Imped. Cntrl.;Right Angle, Median Values
*SYM=ZPSLM
.SUBCKT MSRAM 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.010
L4 4 5 1.73NH
C5 5 3 0.70PF
L5 5 6 1.73NH
C6 6 3 0.70PF
L6 6 7 1.73NH
R7 7 2 0.010
.ENDS MSRAM
***********
*SRC=MSRAA;MSRAA;Connectors;Imped. Cntrl.;Right Angle, Row A
*SYM=ZPSLM
.SUBCKT MSRAA 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.010
L4 4 5 1.50NH
C5 5 3 0.58PF
L5 5 6 1.50NH
C6 6 3 0.58PF
L6 6 7 1.50NH
R7 7 2 0.010
.ENDS MSRAA
***********
*SRC=MSRAB;MSRAB;Connectors;Imped. Cntrl.;Right Angle, Row B
*SYM=ZPSLM
.SUBCKT MSRAB 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.010
L4 4 5 1.53NH
C5 5 3 0.55PF
L5 5 6 1.53NH
C6 6 3 0.36PF
L6 6 7 1.53NH
R7 7 2 0.010
.ENDS MSRAB
***********
*SRC=MSRAC;MSRAC;Connectors;Imped. Cntrl.;Right Angle, Row C
*SYM=ZPSLM
.SUBCKT MSRAC 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.010
L4 4 5 2.10NH
C5 5 3 0.88PF
L5 5 6 2.10NH
C6 6 3 0.88PF
L6 6 7 2.10NH
R7 7 2 0.010
.ENDS MSRAC
***********
*SRC=MSRAD;MSRAD;Connectors;Imped. Cntrl.;Right Angle, Row D
*SYM=ZPSLM
.SUBCKT MSRAD 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.011
L4 4 5 1.83NH
C5 5 3 0.53PF
L5 5 6 1.83NH
C6 6 3 0.53PF
L6 6 7 1.83NH
R7 7 2 0.011
.ENDS MSRAD
***********
*
********** TRANSMISSION LINE MODELS **************
*
*********
*SRC=MSRAML;MSRAML;Connectors;Imped. Cntrl.;Right Angle, Median Values
*SYM=ZPSLM
.SUBCKT MSRAML 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.020
T4 4 3 2 3 Z0=61 TD=80PS
.ENDS MSRAML
************
*SRC=MSRAAL;MSRAAL;Connectors;Imped. Cntrl.;Right Angle, Row A
*SYM=ZPSLM
.SUBCKT MSRAAL 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.019
T4 4 3 2 3 Z0=63 TD=68PS
.ENDS MSRAAL
************
*SRC=MSRABL;MSRABL;Connectors;Imped. Cntrl.;Right Angle, Row B
*SYM=ZPSLM
.SUBCKT MSRABL 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.020
T4 4 3 2 3 Z0=65 TD=65PS
.ENDS MSRABL
************
*SRC=MSRACL;MSRACL;Connectors;Imped. Cntrl.;Right Angle, Row C
*SYM=ZPSLM
.SUBCKT MSRACL 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.020
T4 4 3 2 3 Z0=60 TD=96PS
.ENDS MSRACL
************
*SRC=MSRADL;MSRADL;Connectors;Imped. Cntrl.;Right Angle, Row D
*SYM=ZPSLM
.SUBCKT MSRADL 1  2   3
*             IN*OUT*REF
* AMP Microstrip RA, 65194
R1 1 4 0.022
T4 4 3 2 3 Z0=59 TD=89PS
.ENDS MSRADL
************
*
******************************************************
*                        *   AMP Connector Catalog No.
*     MICTOR 50 RA       *             n/a
*                        *
**************************
*    rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
*********
*SRC=MI50M;MI50M;Connectors;Imped. Cntrl.;Right Angle, Row A/B/Median
*SYM=ZPSLM
.SUBCKT MI50M  1  2   3
*             IN*OUT*REF
* AMP Mictor 50 RA
R1 1 4 0.005
L4 4 5 2.0NH
C5 5 3 0.7PF
L5 5 6 2.0NH
R6 6 2 0.005
.ENDS MI50M
***********
*
********** TRANSMISSION LINE MODELS **************
*
*********
*SRC=MI50ML;MI50ML;Connectors;Imped. Cntrl.;Right Angle, Row A/B/Median
*SYM=ZPSLM
.SUBCKT MI50ML 1  2   3
*             IN*OUT*REF
* AMP Mictor 50 RA
R1 1 4 0.010
T4 4 3 2 3 Z0=75 TD=60PS
.ENDS MI50ML
************
*
******************************************************
*                        *   AMP Connector Catalog No.
*     MICTOR 25 RA       *           n/a
*                        *
**************************
*     rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
*********
*SRC=MI25M;MI25M;Connectors;Imped. Cntrl.;Right Angle, Row A/B/Median
*SYM=ZPSLM
.SUBCKT MI25M  1  2   3
*             IN*OUT*REF
* AMP Mictor 25 RA
R1 1 4 0.005
L4 4 5 1.6NH
C5 5 3 0.7PF
L5 5 6 1.6NH
R6 6 2 0.005
.ENDS MI25M
***********
*
********** TRANSMISSION LINE MODELS **************
*
*********
*SRC=MI25ML;MI25ML;Connectors;Imped. Cntrl.;Right Angle, Row A/B/Median
*SYM=ZPSLM
.SUBCKT MI25ML 1  2   3
*             IN*OUT*REF
* AMP Mictor 25 RA
R1 1 4 0.010
T4 4 3 2 3 Z0=68 TD=60PS
.ENDS MI25ML
************
*
*****************************************************
*                       *   AMP Connector Catalog No.
*    Z-PACK             *            n/a
*    050J-II            *
*                       *
*************************
*   rev 3/1/94
****************** RLC MODELS ********************
*
* THE FOLLOWING RLC MODELS ARE APPROPRIATE
* FOR EDGE SPEEDS OF 250PS OR SLOWER
*
********
*SRC=J508M;J508M;Connectors;Imped. Cntrl.;Right Angle, Median Value
*SYM=ZPSLM
.SUBCKT J508M 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.005
L4 4 5 1.87NH
C5 5 3 0.68PF
L5 5 6 1.87NH
C6 6 3 0.68PF
L6 6 7 1.87NH
C7 7 3 0.68PF
L7 7 8 1.87NH
R8 8 2 0.005
.ENDS J508M
***********
*SRC=J508A;J508A;Connectors;Imped. Cntrl.;Right Angle, Row A
*SYM=ZPSLM
.SUBCKT J508A 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.004
L4 4 5 1.28NH
C5 5 3 0.53PF
L5 5 6 1.28NH
C6 6 3 0.53PF
L6 6 7 1.28NH
C7 7 3 0.53PF
L7 7 8 1.28NH
R8 8 2 0.004
.ENDS J508A
***********
*SRC=J508B;J508B;Connectors;Imped. Cntrl.;Right Angle, Row B
*SYM=ZPSLM
.SUBCKT J508B 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.004
L4 4 5 1.50NH
C5 5 3 0.67PF
L5 5 6 1.50NH
C6 6 3 0.67PF
L6 6 7 1.50NH
C7 7 3 0.67PF
L7 7 8 1.50NH
R8 8 2 0.004
.ENDS J508B
***********
*SRC=J508C;J508C;Connectors;Imped. Cntrl.;Right Angle, Row C
*SYM=ZPSLM
.SUBCKT J508C 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.005
L4 4 5 1.48NH
C5 5 3 0.70PF
L5 5 6 1.48NH
C6 6 3 0.70PF
L6 6 7 1.48NH
C7 7 3 0.70PF
L7 7 8 1.48NH
R8 8 2 0.005
.ENDS J508C
***********
*SRC=J508D;J508D;Connectors;Imped. Cntrl.;Right Angle, Row D
*SYM=ZPSLM
.SUBCKT J508D 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.005
L4 4 5 1.75NH
C5 5 3 0.70PF
L5 5 6 1.75NH
C6 6 3 0.70PF
L6 6 7 1.75NH
C7 7 3 0.70PF
L7 7 8 1.75NH
R8 8 2 0.005
.ENDS J508D
***********
*SRC=J508E;J508E;Connectors;Imped. Cntrl.;Right Angle, Row E
*SYM=ZPSLM
.SUBCKT J508E 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.005
L4 4 5 1.80NH
C5 5 3 0.73PF
L5 5 6 1.80NH
C6 6 3 0.73PF
L6 6 7 1.80NH
C7 7 3 0.73PF
L7 7 8 1.80NH
R8 8 2 0.005
.ENDS J508E
***********
*SRC=J508F;J508F;Connectors;Imped. Cntrl.;Right Angle, Row F
*SYM=ZPSLM
.SUBCKT J508F 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.005
L4 4 5 2.05NH
C5 5 3 0.73PF
L5 5 6 2.05NH
C6 6 3 0.73PF
L6 6 7 2.05NH
C7 7 3 0.73PF
L7 7 8 2.05NH
R8 8 2 0.005
.ENDS J508F
***********
*SRC=J508G;J508G;Connectors;Imped. Cntrl.;Right Angle, Row G
*SYM=ZPSLM
.SUBCKT J508G 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.006
L4 4 5 2.13NH
C5 5 3 0.77PF
L5 5 6 2.13NH
C6 6 3 0.77PF
L6 6 7 2.13NH
C7 7 3 0.77PF
L7 7 8 2.13NH
R8 8 2 0.006
.ENDS J508G
***********
*SRC=J508H;J508H;Connectors;Imped. Cntrl.;Right Angle, Row H
*SYM=ZPSLM
.SUBCKT J508H 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.006
L4 4 5 3.00NH
C5 5 3 0.63PF
L5 5 6 3.00NH
C6 6 3 0.63PF
L6 6 7 3.00NH
C7 7 3 0.63PF
L7 7 8 3.00NH
R8 8 2 0.006
.ENDS J508H
***********
*
********** TRANSMISSION LINE MODELS **************
*
*********
*SRC=J508ML;J508ML;Connectors;Imped. Cntrl.;Right Angle, Median Values
*SYM=ZPSLM
.SUBCKT J508ML 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.010
T4 4 3 2 3 Z0=60 TD=123PS
.ENDS J508ML
************
*SRC=J508AL;J508AL;Connectors;Imped. Cntrl.;Right Angle, Row A
*SYM=ZPSLM
.SUBCKT J508AL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.007
T4 4 3 2 3 Z0=56 TD=90PS
.ENDS J508AL
************
*SRC=J508BL;J508BL;Connectors;Imped. Cntrl.;Right Angle, Row B
*SYM=ZPSLM
.SUBCKT J508BL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.008
T4 4 3 2 3 Z0=55 TD=110PS
.ENDS J508BL
************
*SRC=J508CL;J508CL;Connectors;Imped. Cntrl.;Right Angle, Row C
*SYM=ZPSLM
.SUBCKT J508CL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.009
T4 4 3 2 3 Z0=53 TD=112PS
.ENDS J508CL
************
*SRC=J508DL;J508DL;Connectors;Imped. Cntrl.;Right Angle, Row D
*SYM=ZPSLM
.SUBCKT J508DL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.009
T4 4 3 2 3 Z0=58 TD=121PS
.ENDS J508DL
************
*SRC=J508EL;J508EL;Connectors;Imped. Cntrl.;Right Angle, Row E
*SYM=ZPSLM
.SUBCKT J508EL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.010
T4 4 3 2 3 Z0=57 TD=126PS
.ENDS J508EL
************
*SRC=J508FL;J508FL;Connectors;Imped. Cntrl.;Right Angle, Row F
*SYM=ZPSLM
.SUBCKT J508FL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.010
T4 4 3 2 3 Z0=61 TD=135PS
.ENDS J508FL
************
*SRC=J508GL;J508GL;Connectors;Imped. Cntrl.;Right Angle, Row G
*SYM=ZPSLM
.SUBCKT J508GL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.011
T4 4 3 2 3 Z0=61 TD=140PS
.ENDS J508GL
************
*SRC=J508HL;J508HL;Connectors;Imped. Cntrl.;Right Angle, Row H
*SYM=ZPSLM
.SUBCKT J508HL 1  2   3
*             IN*OUT*REF
* AMP Z-Pack 050J-II
R1 1 4 0.012
T4 4 3 2 3 Z0=80 TD=149PS
.ENDS J508HL
************
*
